US07838673B2
Step 28F: methyl 2-methyl-2-[(pyrazin-2-ylcarbonyl)amino]propanoate
To a solution of pyrazine-2-carboxylic acid (0.202 g, 1.6 mmol) in THF (6 mL) at 0° C. were added methyl 2-amino-2-methylpropanoate trifluoroacetate (0.25 g, 1.6 mmol), HOBt (0.22 g, 1.6 mmol), DIEA (0.21 g, 1.6 mmol) and EDCI (0.343 g, 1.8 mmol). The reaction mixture was allowed to stir at 22° C. After 12 h, the reaction mixture was quenched with a saturated solution of sodium bicarbonate and the product partitioned into DCM. The organic layer was dried over MgSO4, filtered and concentrated to give the title compound (0.36 g, 99%). LC/MS: Rt=1.24 min, ES+224 (Formic Acid method).

reactant | pyrazine-2-carboxylic acid | 1.6 mmol, 0.202 g | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | methyl 2-amino-2-methylpropanoate trifluoroacetate | 1.6 mmol, 0.25 g | FC(C(=O)O)(F)F.NC(C(=O)OC)(C)C
reactant | HOBt | 1.6 mmol, 0.22 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 1.6 mmol, 0.21 g | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 1.8 mmol, 0.343 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | methyl 2-methyl-2-[(pyrazin-2-ylcarbonyl)amino]propanoate | 0.36 g, 99% | CC(C(=O)OC)(C)NC(=O)C1=NC=CN=C1 | C10H13N3O3
